// Generated for: spectre
// Generated on: Apr 26 03:33:31 2016
// Design library name: cse463_project
// Design cell name: 7_1_mux_alt_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse463_project
// Cell name: 7_1_mux_alt
// View name: schematic
subckt cse463_project_7_1_mux_alt_schematic Adder DM_AC_AND DM_AC_OR \
        DR_AC_XOR DR_COM DR_direct INPR_direct Out S0 S0B S1 S1B S2 S2B \
        inh_inh_bn
    M26 (net021 S1B net011 gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M25 (net011 S2B INPR_direct gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M32 (Out S0B net19 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M24 (net032 S2B Adder gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M13 (Out S0 net019 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M12 (Out S0 net018 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M28 (net019 S1B net032 gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M10 (net018 S1 net013 gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M27 (Out S0B net021 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M19 (net014 S2 DM_AC_OR gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M30 (net012 S1B net014 gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M31 (net013 S2B DM_AC_AND gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M29 (Out S0B net012 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M3 (net19 S1 net015 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M2 (Out S0 net17 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M1 (Out S0 net18 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M0 (net18 S1 net017 gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M18 (net015 S2 DR_AC_XOR gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M17 (net016 S2 DR_COM gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M16 (net017 S2 DR_direct gnd!) ami06N w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
    M4 (net016 S1B net17 vdd!) ami06P w=900n l=600n as=1.35e-12 \
        ad=1.35e-12 ps=4.8u pd=4.8u m=1 region=sat
ends cse463_project_7_1_mux_alt_schematic
// End of subcircuit definition.

// Library name: cse463_project
// Cell name: min_inv
// View name: schematic
subckt min_inv In out
    N0 (out In 0 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
    P0 (out In vdd! vdd!) ami06P w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
ends min_inv
// End of subcircuit definition.

// Library name: cse463_project
// Cell name: 7_1_mux_alt_test
// View name: schematic
V23 (net5 0) vsource type=dc dc=0
V22 (net3 0) vsource type=dc dc=0
V21 (net4 0) vsource type=dc dc=0
V3 (vdd! 0) vsource type=dc dc=5
I0 (net012 net06 net07 net08 net09 net010 net011 net11 net5 net7 net3 \
        net10 net4 net9 0) cse463_project_7_1_mux_alt_schematic
V20 (net011 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V19 (net010 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V18 (net09 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V17 (net08 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V16 (net07 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V15 (net06 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V14 (net012 0) vsource type=pulse val0=5 val1=0 period=400n width=200n
I8 (net4 net9) min_inv
I7 (net3 net10) min_inv
I6 (net5 net7) min_inv
C0 (net11 0) capacitor c=1f m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=400n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
