// Generated for: spectre
// Generated on: Mar 24 12:11:31 2016
// Design library name: 563_final
// Design cell name: 2_1_mux_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: 563_final
// Cell name: 2_1_mux
// View name: schematic
subckt _sub0 A B clk out
    P2 (out net10 B vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    P0 (out clk A vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    P17 (net10 clk vdd! vdd!) ami06P w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 \
        ps=6.6u pd=6.6u m=1 region=sat
    N2 (B clk out 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    N0 (A net10 out 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
    N13 (net10 clk 0 0) ami06N w=1.8u l=1.8u as=2.7e-12 ad=2.7e-12 ps=6.6u \
        pd=6.6u m=1 region=sat
ends _sub0
// End of subcircuit definition.

// Library name: 563_final
// Cell name: 2_1_mux_test
// View name: schematic
I0 (net2 net3 net4 net5) _sub0
C1 (net5 0) capacitor c=1p m=1
V5 (net4 0) vsource type=pulse val0=0 val1=5 period=5u
V6 (net3 0) vsource type=pulse val0=0 val1=5 period=10u
V4 (net2 0) vsource type=pulse val0=0 val1=5 period=20u
V0 (vdd! 0) vsource type=dc dc=5
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=20u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
