// Generated for: spectre
// Generated on: Apr 26 04:37:08 2016
// Design library name: cse463_project
// Design cell name: 7_1_mux_tgate_test
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06N.m"
include "/project/linuxlab/cadence/CDK/ncsu/models/spectre/nom/ami06P.m"

// Library name: cse463_project
// Cell name: min_tgate
// View name: schematic
subckt min_tgate IN OUT S SB inh_inh_bn
    M0 (IN S OUT gnd!) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
    M1 (OUT SB IN vdd!) ami06P w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
ends min_tgate
// End of subcircuit definition.

// Library name: cse463_project
// Cell name: 7_1_mux_tgate
// View name: schematic
subckt cse463_project_7_1_mux_tgate_schematic Adder DM_AC_AND DM_AC_OR \
        DR_AC_XOR DR_COM DR_direct INPR_direct Out S0 S0B S1 S1B S2 S2B \
        inh_inh_bn
    I25 (INPR_direct net32 S0B S0 inh_inh_bn) min_tgate
    I24 (DR_direct net18 S0 S0B inh_inh_bn) min_tgate
    I23 (DR_COM net18 S0B S0 inh_inh_bn) min_tgate
    I28 (net18 net26 S1B S1 inh_inh_bn) min_tgate
    I29 (net19 net27 S1 S1B inh_inh_bn) min_tgate
    I19 (Adder net20 S0B S0 inh_inh_bn) min_tgate
    I20 (DM_AC_AND net20 S0 S0B inh_inh_bn) min_tgate
    I21 (DM_AC_OR net19 S0B S0 inh_inh_bn) min_tgate
    I22 (DR_AC_XOR net19 S0 S0B inh_inh_bn) min_tgate
    I27 (net32 net26 S1 S1B inh_inh_bn) min_tgate
    I31 (net27 Out S2B S2 inh_inh_bn) min_tgate
    I30 (net20 net27 S1B S1 inh_inh_bn) min_tgate
    I32 (net26 Out S2 S2B inh_inh_bn) min_tgate
ends cse463_project_7_1_mux_tgate_schematic
// End of subcircuit definition.

// Library name: cse463_project
// Cell name: min_inv
// View name: schematic
subckt min_inv In out
    N0 (out In 0 0) ami06N w=900n l=600n as=1.35e-12 ad=1.35e-12 ps=4.8u \
        pd=4.8u m=1 region=sat
    P0 (out In vdd! vdd!) ami06P w=900n l=600n as=1.35e-12 ad=1.35e-12 \
        ps=4.8u pd=4.8u m=1 region=sat
ends min_inv
// End of subcircuit definition.

// Library name: cse463_project
// Cell name: 7_1_mux_tgate_test
// View name: schematic
V14 (IN0 0) vsource type=pulse val0=5 val1=5 period=400n width=200n
V15 (IN1 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V16 (IN2 0) vsource type=pulse val0=5 val1=5 period=400n width=200n
V4 (S0 0) vsource type=pulse val0=5 val1=0 period=200n width=100n
V2 (S1 0) vsource type=pulse val0=5 val1=0 period=400n width=200n
V1 (S2 0) vsource type=pulse val0=5 val1=0 period=800n width=400n
V17 (IN3 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
V18 (IN4 0) vsource type=pulse val0=5 val1=5 period=400n width=200n
V20 (IN6 0) vsource type=pulse val0=5 val1=5 period=400n width=200n
V19 (IN5 0) vsource type=pulse val0=0 val1=0 period=400n width=200n
C0 (OUT 0) capacitor c=1f m=1
V3 (vdd! 0) vsource type=dc dc=5
I0 (IN0 IN1 IN2 IN3 IN4 IN5 IN6 OUT S0 net14 S1 net022 S2 net027 0) \
        cse463_project_7_1_mux_tgate_schematic
I7 (S1 net022) min_inv
I6 (S0 net14) min_inv
I8 (S2 net027) min_inv
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=800n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
